US06756378B2
To a stirred solution of [1-tert-butoxycarbonyl-(2S)-octahydroindolyl]carboxylic acid (1.0 g, 3.7 mmol) in THF (10.0 ml) was added BH3.THF (1.0 M in THF, 8.0 ml) at 0° C. After stirred at room temperature for 1.0 h, the reaction mixture was heated under reflux for 1.5 hr. After cooled, the mixture was concentrated in vacuo. Water was added thereto at 0° C., and extracted with EtOAc. The extract was washed with water, then dried over Na2SO4, and concentrated in vacuo to give [1-tert-butoxycarbonyl-(2S)-octahydroindolyl]methanol (947 mg, quant) as a a colorless oil.

reactant | [1-tert-butoxycarbonyl-(2S)-octahydroindolyl]carboxylic acid | 3.7 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CC2CCCCC12)C(=O)O | C14H23NO4
reactant | BH3.THF | 1.0 M, 8.0 ml | B.C1CCOC1
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
product | [1-tert-butoxycarbonyl-(2S)-octahydroindolyl]methanol | 947 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC2CCCCC12)CO | C14H25NO3
